US06166157
A mixture of 17.5 g of fine powder of ICF2CF(CF3)OCF2CF2CONH2 and 17 g of P2O5 was heated at 150 to 200° C., during which volatiles were distilled out. Final volatiles were collected in a -78° C. trap at 13.3 kPa. A total of 13.8 g of ICF2CF(CF3)OCF2CF2CN were obtained, 95% pure by GC. 19F NMR: -58.6 (dm J=212.4 Hz, 1F), -60.1 (dm J=212 Hz, 1F), -76.7 (m, 3F), -83.3 (dm, J=135 Hz, 1F), -84.8 (dm, J=135 Hz, 1F), -108.6 (t, j=6.3 Hz, 2F), -133.6 (m, 1F). IR(neat): 2268 (m), 1113 (s).

reactant | ICF2CF(CF3)OCF2CF2CONH2 | IC(F)(F)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(=O)N | C6H2F10INO2
reactant | P2O5 | 17 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | ICF2CF(CF3)OCF2CF2CN | 13.8 g | IC(F)(F)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C#N | C6F10INO
